US04228045
Preparation of 1-Methylol-4,5-Dihydroxy-2-Imidazolidinone
Formaldehyde (8.85 parts of 37.3 percent solution; 0.11 mole), adjusted to pH 7-8.5, is diluted with water (20 parts). While stirring, 11.8 parts (0.1 mole) of dihydroxyethyleneurea powder are added. The temperature is raised to 55° C., held at 55° C. for 30 minutes, cooled to room temperature, and refrigerated. The sample is recovered as an 80 percent aqueous solution.

reactant | Formaldehyde | 0.11 mole | C=O | CH2O
reactant | dihydroxyethyleneurea | 0.1 mole | C1(C(NC(=O)N1)O)O | C3H6N2O3
solvent | water | O | H2O
product | 1-Methylol-4,5-Dihydroxy-2-Imidazolidinone | C(O)N1C(NC(C1O)O)=O | C4H8N2O4
